US04051127
Diethyl [2-phenyl-2-(2-amino-5-chloro-phenyl)-1-aza-vinyl]-malonate
16 g of dry ethyl amino-malonate hydrochloride are suspended in 200 ml of dichloroethane, then a solution of 10 g of 1-phenyl-1-(2-amino-5-chloro-phenyl)-2,5-diazapent-1-ene in 100 ml of dichloroethane is added and the whole is heated at 80° for 3 hours 30 minutes. The red colour at the start changes to yellow at the end of the reaction.

reactant | ethyl amino-malonate hydrochloride | 16 g | Cl.NC(C(=O)OCC)C(=O)O
reactant | 1-phenyl-1-(2-amino-5-chloro-phenyl)-2,5-diazapent-1-ene | 10 g | C1(=CC=CC=C1)C(=NCCN)C1=C(C=CC(=C1)Cl)N | C15H16ClN3
reactant | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
reactant | dichloroethane | 100 ml | ClC(C)Cl | C2H4Cl2
product | Diethyl [2-phenyl-2-(2-amino-5-chloro-phenyl)-1-aza-vinyl]-malonate | C1(=CC=CC=C1)C(=NC(C(=O)OCC)C(=O)OCC)C1=C(C=CC(=C1)Cl)N | C20H21ClN2O4
